US08193228B2
Sodium periodate was added to a solution of 4-(2-{3,3-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]-2-hydroxypropyl}-1-trityl-1H-imidazol-4-yl)-3,3-dimethylbutane-1,2-diol (300 mg, 0.43 mmol) in tetrahydrofuran/water (2:1) (10 mL) at 0° C. After stirring at ambient temperature until complete (by LCMS), the reaction mixture was quenched with saturated aqueous sodium bicarbonate and extracted with methylene chloride. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-40% ethyl acetate/hexane afforded 3-(2-{3,3-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]-2-hydroxypropyl}-1-trityl-1H-imidazol-4-yl)-2,2-dimethylpropanal.

reactant | Sodium periodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | 4-(2-{3,3-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]-2-hydroxypropyl}-1-trityl-1H-imidazol-4-yl)-3,3-dimethylbutane-1,2-diol | 0.43 mmol, 300 mg | FC(C(CC=1N(C=C(N1)CC(C(CO)O)(C)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)F | C42H40F3N3O3
solvent | tetrahydrofuran water | 10 mL | O1CCCC1.O
product | 3-(2-{3,3-difluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]-2-hydroxypropyl}-1-trityl-1H-imidazol-4-yl)-2,2-dimethylpropanal | FC(C(CC=1N(C=C(N1)CC(C=O)(C)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(O)C1=CC=C(C=C1)C1=NC=C(C=C1)F)F | C41H36F3N3O2
